US06747057B2
2,2-Dibromo-1-(4-trifluoromethyl-phenyl)-ethanone.
This compound was synthesised by the general procedure represented in Scheme 2, a stirred solution of 1-(4-trifluoromethyl-phenyl)-ethanone (1 g, 5.3 mmol) ) and acetic acid (50 ml) was refluxed 1 h, then bromine (0.35 ml, 6.9 mmol) was added dropwise and the mixture refluxed 3 h. After cooling at room temperature, water (50 ml) was added and the mixture extracted with CH2Cl2 (50 ml), the organic layer was washed with water (50 ml), a solution of NaHCO3 saturated (50 ml) and finally with NaCl solution (50 ml), the organic layer was dried over sodium sulphate and the solvent evaporated under reduced pressure. The resulting residue was purified by column chromatography, using a mixture of ethyl acetate:hexane (1:8) as eluent giving two compounds, the titled compound 41 as a yellow solid (45%) m.p.: 40-41° C., 1H-NMR (CDCl3): δ8.2 (d, J=8.3 Hz, 2H, Ar), 7.8 (d, J=8.3 Hz, 2H, Ar), 6.6 (s, 1H, CH); 13C-NMR (CDCl3): δ184.1 (CO), 134.7 (q, J=272.9 Hz, C—CF3), 132.7 (C—CO), 129.2 (CH), 124.8 (CH), 119.5 (q, J=33.09, CF3), 38.2 (CH); M/z (EI): 348, 346, 344 (M+, 1, 6, 1%), 173 (M-CHBr2, 100%); HPLC: Column μ Bondapack C18, 5 μm, 300 A, (300×3.9 mm), Purity 97%, r.t.=9.96 min, acetonitrile/H2O (0.05% H3PO4+0.04% Et3N) 50/50. The second compound was identified as 2-bromo-1-(4-trifluoromethyl-phenyl)-ethanone (0,6%), described as the example 40.

reactant | 1-(4-trifluoromethyl-phenyl)-ethanone | 5.3 mmol, 1 g | FC(C1=CC=C(C=C1)C(C)=O)(F)F | C9H7F3O
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | bromine | 6.9 mmol, 0.35 ml | BrBr | Br2
reactant | 2-bromo-1-(4-trifluoromethyl-phenyl)-ethanone | BrCC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H6BrF3O
solvent | acetonitrile H2O | C(C)#N.O
solvent | water | 50 ml | O | H2O
product | 2,2-Dibromo-1-(4-trifluoromethyl-phenyl)-ethanone | BrC(C(=O)C1=CC=C(C=C1)C(F)(F)F)Br | C9H5Br2F3O
